US06486156B1
A solution of 2-(imidazol-1-yl)acetaldehyde (2.8 g; 0.021 mmol), 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide (6.2 g; 0.01 mmol), potassium carbonate (2.8 g; 0.02 mmol) and 18 crown-6 (0.1 g; 0.37 mmol) in dichloromethane (100 ml) was stirred under argon atmosphere at ambient temperature overnight. After extraction and evaporation to dryness, the residue was purified by flash chromatography eluting with a mixture of dichloromethane/ethanol (98/2) to give methyl 5-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate as a mixture of E and Z isomers.

reactant | 2-(imidazol-1-yl)acetaldehyde | 0.021 mmol, 2.8 g | N1(C=NC=C1)CC=O | C5H6N2O
reactant | 4-(4-fluorophenethyl)-3-methoxycarbonylbenzyl triphenylphosphonium bromide | 0.01 mmol, 6.2 g | [Br-].FC1=CC=C(CCC2=C(C=C(C[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C2)C(=O)OC)C=C1
reactant | potassium carbonate | 0.02 mmol, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 5-[3-(imidazol-1-yl)prop-1-en-1-yl]-2-(4-fluorophenethyl)benzoate | Yield: 70% | N1(C=NC=C1)CC=CC=1C=CC(=C(C(=O)OC)C1)CCC1=CC=C(C=C1)F | C22H21FN2O2
